** sch_path: /home/wshh/Shiheng_Analog_Bootcamp/analog/schematics/tb_dc_analysis.sch
**.subckt tb_dc_analysis VOUT
*.opin VOUT
VSS net2 GND 0
VDD net6 GND 1.8
VCM net4 GND 0.9
VDIFF net5 net4 0
R1 net1 net4 1M m=1
R2 net3 net5 1M m=1
x1 net6 VOUT net1 net3 net2 opamp_single_stage
**** begin user architecture code


.lib /home/wshh/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.option scale=1e-6
.control
save all

* DC Gain Test
dc VDIFF -0.01 0.01 0.0001
plot v(vout) title 'DC Transfer Curve'
plot deriv(v(vout)) title 'Gain'

* Power Test
op
print i(VDD)
.endc


**** end user architecture code
**.ends

* expanding   symbol:  opamp_single_stage.sym # of pins=5
** sym_path: /home/wshh/Shiheng_Analog_Bootcamp/analog/schematics/opamp_single_stage.sym
** sch_path: /home/wshh/Shiheng_Analog_Bootcamp/analog/schematics/opamp_single_stage.sch
.subckt opamp_single_stage VDD VOUT VIN_N VIN_P VSS
*.ipin VIN_P
*.ipin VIN_N
*.ipin VDD
*.ipin VSS
*.opin VOUT
XM3 VDD net1 net1 VDD sky130_fd_pr__pfet_01v8 L=0.5 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM4 net2 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
VB2 net6 net5 0.7
XM1 net1 VIN_P net3 GND sky130_fd_pr__nfet_01v8 L=0.5 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 net3 VIN_N net2 GND sky130_fd_pr__nfet_01v8 L=0.5 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM9 VSS net5 net3 GND sky130_fd_pr__nfet_01v8 L=0.5 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM5 VOUT_S2 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM6 VOUT_S2 net6 VSS GND sky130_fd_pr__nfet_01v8 L=0.5 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
R1 net2 net4 5k m=1
C1 net4 VOUT_S2 2p m=1
XM7 VOUT VOUT_S2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM8 VOUT VOUT_S2 VSS GND sky130_fd_pr__nfet_01v8 L=0.5 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.end
